US07432227B2
A mixture of di-tert-butyl chloro[5-chloro-6-(methoxycarbonyl)-1-oxidopyridin-2-yl]malonate (19.65 g, 45.0 mmol), trifluoroacetic acid (41 mL) and dichloromethane (82 mL) was refluxed for 2.5 hours, cooled and then concentrated to dryness. The crude residue was taken up in xylene and the mixture heated at reflux until carbon dioxide was no longer given off. The reaction mixture was then cooled to room temperature and ethyl ether added followed by a small amount of saturated NaHCO3 solution. The organic was separated and the aqueous layer was saturated with brine and extracted with ethyl acetate. The organic layers were combined, dried (MgSO4), filtered and concentrated to dryness. The crude product was purified by column chromatography (20-50% ethyl acetate in hexane) to give methyl 3-chloro-6-(chloromethyl)pyridine-2-carboxylate 1-oxide (7.11 g, 30.1 mmol) as a brown solid; 1H NMR (CDCl3): δ 7.60 (d, 2H), 7.40 (d, 2H), 4.80 (s, 2H), 4.00 (s, 3H).

reactant | di-tert-butyl chloro[5-chloro-6-(methoxycarbonyl)-1-oxidopyridin-2-yl]malonate | 45.0 mmol, 19.65 g | ClC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C1=[N+](C(=C(C=C1)Cl)C(=O)OC)[O-] | C18H23Cl2NO7
reactant | trifluoroacetic acid | 41 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 82 mL | ClCCl | CH2Cl2
product | methyl 3-chloro-6-(chloromethyl)pyridine-2-carboxylate 1-oxide | 30.1 mmol, 7.11 g | ClC1=C([N+](=C(C=C1)CCl)[O-])C(=O)OC | C8H7Cl2NO3
